US07645789B2
To a solution of 2-tert-butyl-4-fluoro-1H-indole (2.5 g, 10 mmol) in H2SO4 (30 mL) was added KNO3 (1.3 g, 10 mmol) at 0° C. The mixture was stirred for 0.5 h at −10° C. The mixture was poured into water and extracted with EtOAc (100 mL×3). The organic layers were washed with sat. NaCl and water, dried over anhydrous Na2SO4, and evaporated under vacuum. The crude compound was purified by column chromatography on silica gel (10% EtOAc in petroleum ether) to give 2-tert-butyl-4-fluoro-5-nitro-1H-indole (900 mg, 73%). 1H NMR (400 MHz, CDCl3) δ 8.50 (br s, 1H), 7.86 (dd, J=7.6, 8.8 Hz, 1H), 7.13 (d, J=8.8 Hz, 1H), 6.52 (dd, J=0.4, 2.0 Hz, 1H), 1.40 (s, 9H).

reactant | 2-tert-butyl-4-fluoro-1H-indole | 10 mmol, 2.5 g | C(C)(C)(C)C=1NC2=CC=CC(=C2C1)F | C12H14FN
reactant | KNO3 | 10 mmol, 1.3 g | [N+](=O)([O-])[O-].[K+]
reactant | water | O | H2O
solvent | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
product | 2-tert-butyl-4-fluoro-5-nitro-1H-indole | 900 mg, 73% | C(C)(C)(C)C=1NC2=CC=C(C(=C2C1)F)[N+](=O)[O-] | C12H13FN2O2
